US09023840B2
Step 2: 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid
A mixture of methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]-methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate (0.31 g, 0.57 mmol), lithium hydroxide monohydrate (0.060 g, 1.4 mmol) in methanol (6.0 mL) and water (2.5 mL) was stirred at 30° C. overnight. The mixture was adjusted to pH=4 with aqueous HCl, and concentrated under reduced pressure to remove MeOH. The resulted solid was filtered, washed with water and ether, and then dried in vacuum to afford the desired product (0.25 g, 83%). LCMS (M+H)+: m/z=532.3

reactant | methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]-methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate | 0.57 mmol, 0.31 g | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)OC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H31N9O3Si
reactant | lithium hydroxide monohydrate | 1.4 mmol, 0.060 g | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | methanol | 6.0 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
product | 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid | 0.25 g, 83% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C25H29N9O3Si
